US05614544
A mixture of 2-hydroxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]butyric acid ethyl ester (1.43 g), powdered potassium cyanate (0.83 g) and butanol (30 ml) was heated under refluxing conditions for 2 days. After the solvent was distilled off under reduced pressure, the residue was acidified with 2N hydrochloric acid and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated. The residue was purified by silica gel column chromatography. From the fraction eluted with chloroform-methanol (100:2), 5-[2-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]ethyl]-2,4-oxazolidinedione (0.56 g, 39%) was obtained, which was then recrystallized from dichloromethane-methanol to yield colorless prisms having a melting point of 173°-174° C.

reactant | 2-hydroxy-4-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]butyric acid ethyl ester | 1.43 g | C(C)OC(C(CCC1=CC=C(C=C1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O)O)=O | C25H27NO5
reactant | potassium cyanate | 0.83 g | [O-]C#N.[K+]
solvent | butanol | 30 ml | C(CCC)O | C4H10O
product | 5-[2-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]ethyl]-2,4-oxazolidinedione | 0.56 g, 39% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCC1C(NC(O1)=O)=O | C24H22N2O5
